US04987132
A mixture of 1.15 g of 2-(3-pyridyl)-1-pyrroline-4-carboxylic acid monohydrobromide, 770 mg of 1-heptylpiperazine, 860 mg of dicyclohexylcarbodiimide and 560 mg of 1-hydroxybenzotriazole in 15 ml of N,N-dimethylformamide was stirred at room temperature for 3 days. After dilution of the reaction mixture with ethyl acetate, the insoluble matter was filtered off, the filtrate was concentrated under reduced pressure and, after addition of 0.5N aqueous sodium hydroxide, the residue was extracted with ethyl acetate. The organic layer was extracted with 1N hydrochloric acid. The aqueous layer was adjusted to pH 10 by addition of potassium carbonate and extracted again with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (15 g). Elution with ethyl acetate gave 1.01 g of 1-heptyl-4-[2-(3-pyridyl)-2-pyrrolin-5-ylcarbonyl]piperazine.

reactant | 2-(3-pyridyl)-1-pyrroline-4-carboxylic acid monohydrobromide | 1.15 g | Br.N1=CC(=CC=C1)C1=NCC(C1)C(=O)O
reactant | 1-heptylpiperazine | 770 mg | C(CCCCCC)N1CCNCC1 | C11H24N2
reactant | dicyclohexylcarbodiimide | 860 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 560 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-heptyl-4-[2-(3-pyridyl)-2-pyrrolin-5-ylcarbonyl]piperazine | 1.01 g | C(CCCCCC)N1CCN(CC1)C(=O)C1CC=C(N1)C=1C=NC=CC1 | C21H32N4O
